US07687510B2
4-(4Cyanophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid 2-cyanoethyl ester
9.87 g (48.3 mmol) N-[3-(trifluoromethyl)phenyl]urea, 12.68 g (96.68 mmol) 4-cyanobenzaldehyde, 15 g (96.68 mmol) (2-cyanoethyl) 3-oxobutanoate and 37.5 g polyphosphoric acid ethyl ester are suspended in 250 ml of THF. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 48.3 mmol, 9.87 g | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 96.68 mmol, 12.68 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | (2-cyanoethyl) 3-oxobutanoate | 96.68 mmol, 15 g | O=C(CC(=O)OCCC#N)C | C7H9NO3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-(4Cyanophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid 2-cyanoethyl ester | C(#N)CCOC(=O)C=1C(NC(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C#N | C23H17F3N4O3
